US07642264B2
5-{3-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-pyridin-2-ylamine
The title compound was prepared from 4-(4-chloro-phenyl)-N-hydroxy-6-trifluoromethyl-pyrimidine-2-carboxamidine (example C.1) (0.16 g, 0.5 mmol) and commercially available 6-amino-nicotinic acid (0.07 g, 0.5 mmol according to the general procedure VI. Obtained as an off-white solid (0.059 g, 28%). MS (ISP) 418.9 [(M+H)+]; mp 191° C.

reactant | 4-(4-chloro-phenyl)-N-hydroxy-6-trifluoromethyl-pyrimidine-2-carboxamidine | 0.5 mmol, 0.16 g | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C(=N)NO | C12H8ClF3N4O
reactant | 6-amino-nicotinic acid | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
product | 5-{3-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-pyridin-2-ylamine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=NOC(=N1)C=1C=CC(=NC1)N | C18H10ClF3N6O
